US07960552B2
A solution of 2.46 g (13.3 mmol) of 4-bromobenzaldehyde, 1.0 mL (11.1 mmol) of methyl acrylate and 125 mg (1.11 mmol) of 1,4-diazobicyclo[2.2.2]octane in 5 mL MeOH was stirred at ambient temperature for 46 hr. The solvent was evaporated and the residue taken up in EtOAc. The organics were washed with 0.5 N HCl (aq), then with brine, and concentrated. The residue was purified by silica gel chromatography (120 g of silica gel eluting with 0-30% EtOAc in hexanes over 45 minutes) to give 1.42 g (40%) of methyl 2-[(4-bromophenyl)(hydroxy)methyl]-2-propenoate as a clear oil. 1H NMR (400 MHz, CDCl3): δ 7.47 (d, J=2 Hz, 2H), 7.27 (d, J=2 Hz, 2H), 6.33 (s, 1H), 5.82 (s, 1H), 5.51 (d, J=5 Hz, 1H), 3.72 (s, 3H), 3.07 (d, J=5 Hz, 1H). ESI-LCMS m/z 293 (M+Na)+.

reactant | 4-bromobenzaldehyde | 13.3 mmol, 2.46 g | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | methyl acrylate | 11.1 mmol, 1.0 mL | C(C=C)(=O)OC | C4H6O2
reactant | 1,4-diazobicyclo[2.2.2]octane | 1.11 mmol, 125 mg | C1CN2CCN1CC2 | C6H12N2
solvent | MeOH | 5 mL | CO | CH4O
product | methyl 2-[(4-bromophenyl)(hydroxy)methyl]-2-propenoate | 1.42 g, 40% | BrC1=CC=C(C=C1)C(C(C(=O)OC)=C)O | C11H11BrO3
